### PR TITLE
[Merged by Bors] - chore: address some porting notes in Mathlib/Computability

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/Encoding.lean [hunk 1]
```diff
@@ -74,11 +74,12 @@ def sectionΓ'Bool : Γ' → Bool
   | Γ'.bit b => b
   | _ => Inhabited.default
 
-theorem leftInverse_section_inclusion : Function.LeftInverse sectionΓ'Bool inclusionBoolΓ' :=
```
Comment (grunweg) [inline Mathlib/Computability/Encoding.lean:77]: Can you add a deprecation warning, please?

File: Mathlib/Computability/Encoding.lean [hunk 2]
```diff
@@ -111,23 +112,23 @@ theorem encodePosNum_nonempty (n : PosNum) : encodePosNum n ≠ [] :=
   PosNum.casesOn n (List.cons_ne_nil _ _) (fun _m => List.cons_ne_nil _ _) fun _m =>
     List.cons_ne_nil _ _
 
-theorem decode_encodePosNum : ∀ n, decodePosNum (encodePosNum n) = n := by
+@[simp] theorem decode_encodePosNum : ∀ n, decodePosNum (encodePosNum n) = n := by
```
Comment (grunweg) [inline Mathlib/Computability/Encoding.lean:115]: Standard question if the \forall should be left of the colon. (But this is pre-existing.)

File: Mathlib/Computability/Language.lean [hunk 3]
```diff
@@ -162,9 +157,7 @@ lemma mem_kstar_iff_exists_nonempty {x : List α} :
   · rintro ⟨S, rfl, h⟩
     refine ⟨S.filter fun l ↦ !List.isEmpty l,
       by simp [List.flatten_filter_not_isEmpty], fun y hy ↦ ?_⟩
-    -- Porting note: The previous code was:
-    -- rw [mem_filter, empty_iff_eq_nil] at hy
-    rw [mem_filter, Bool.not_eq_true', ← Bool.bool_iff_false, List.isEmpty_iff] at hy
+    simp only [mem_filter, Bool.not_eq_eq_eq_not, Bool.not_true, isEmpty_eq_false] at hy
```
Comment (grunweg) [inline Mathlib/Computability/Language.lean:160]: Follow-up if you want: does this combine to a `simpa using ...`?

File: Mathlib/Computability/PartrecCode.lean [hunk 4]
```diff
@@ -206,8 +206,6 @@ theorem encode_lt_rfind' (cf) : encode cf < encode (rfind' cf) := by
 
 end Nat.Partrec.Code
 
--- Porting note: Opening `Primrec` inside `namespace Nat.Partrec.Code` causes it to resolve
```
Comment (grunweg) [inline Mathlib/Computability/PartrecCode.lean:209]: I trust that you checked these two notes. (I didn't carefully verify if they are fixed now.)

File: Mathlib/Computability/RegularExpressions.lean [hunk 5]
```diff
@@ -97,7 +91,7 @@ theorem plus_def (P Q : RegularExpression α) : plus P Q = P + Q :=
 theorem comp_def (P Q : RegularExpression α) : comp P Q = P * Q :=
   rfl
 
--- Porting note: `matches` is reserved, moved to `matches'`
+-- This was renamed to `matches'` during the port of Lean 4 as `matches` is a reserved work.
```
Comment (grunweg) [inline Mathlib/Computability/RegularExpressions.lean:94]:
```suggestion
-- This was renamed to `matches'` during the port of Lean 4 as `matches` is a reserved word.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

**Review by TwoFX — COMMENTED** [review]
bors d+

File: Mathlib/Computability/Encoding.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Computability/Encoding.lean:115]: So not relevant here. :-)

File: Mathlib/Computability/Language.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/Computability/Language.lean:160]: No, because `hy` isn't a pair until it has been simped. I've restored simp only.

File: Mathlib/Computability/Encoding.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Computability/Encoding.lean:77]: Done.

**Comment by kim-em** [comment]
bors merge
